US05382691
A solution of 25% aqueous tetramethylammonium hydroxide (8 mL) was concentrated under vacuum at 75° C. until solid material formed. Azobenzene (1.8 g) and aniline (10 mL) were added and the solution was stirred under the same conditions for 4 hours and then in the presence of air for 12 hours. Analysis of the reaction by HPLC revealed 90% yield of 4(phenylazo)diphenylamine.

reactant | Azobenzene | 1.8 g | N(=NC1=CC=CC=C1)C1=CC=CC=C1 | C12H10N2
solvent | aniline | 10 mL | NC1=CC=CC=C1 | C6H7N
product | 4(phenylazo)diphenylamine | 90% yield | C1=CC=C(C=C1)NC2=CC=C(C=C2)N=NC3=CC=CC=C3 | C18H15N3
